US07977344B2
2-{[1-Methyl-2-(methoxy)ethyl]oxy}-8-(methoxy)-9-(tetrahydro-2H-Pyran-4-ylmethyl)-9H-purin-6-amine
To a solution of 2-{[1-methyl-2-(methoxy)ethyl]oxy}-8-(methoxy)-9H-purin-6-amine trifluoroacetic acid salt (500 mg) in dry N,N-dimethylformamide (4.5 ml) at room temperature and under nitrogen was added potassium carbonate (0.75 g) in one go. The reaction was stirred at 60° C. for 1.5 hours. Tetrahydro-2H-pyran-4-ylmethyl methanesulfonate (0.29 g) was added in one go and the reaction heated at 90° C. for 3 hours. The reaction was cooled to room temperature and then diluted with ethyl acetate (20 ml) and washed with water (15 ml). The organic layer was dried over magnesium sulphate, filtered and concentrated in vacuo. The product was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluant (10-45%) to afford the title compound as a viscous clear oil (260 mg).

reactant | 2-{[1-methyl-2-(methoxy)ethyl]oxy}-8-(methoxy)-9H-purin-6-amine trifluoroacetic acid salt | 500 mg | FC(C(=O)O)(F)F.CC(COC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | Tetrahydro-2H-pyran-4-ylmethyl methanesulfonate | 0.29 g | CS(=O)(=O)OCC1CCOCC1 | C7H14O4S
solvent | N,N-dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[1-Methyl-2-(methoxy)ethyl]oxy}-8-(methoxy)-9-(tetrahydro-2H-Pyran-4-ylmethyl)-9H-purin-6-amine | 260 mg | CC(COC)OC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C16H25N5O4
